US04965398
The above-obtained solution was cooled to -70° C. in a bath of dry ice and acetone, subsequently 0.56 g (10 mmoles) of 2-methyl-l-propene was bubbled into the cooled solution, and then 88 mg (1 mmole) of methyl glyoxylate was added to the solution. Then, the mixture was allowed to react at -30° C. for 15 hours. Subsequently, 10 ml of an aqueous sodium hydrogencarbonate solution was added to terminate the reaction. The reaction mixture was filtered through Celite and extracted with two 20 ml portions of diethyl ether and two 20 ml portions of ethyl acetate, and the extract was dried over anhydrous magnesium sulfate. Thereafter, the solvents were distilled off, and hexane was added to the residue to crystallize binaphthol. The remaining solution was purified by means of silica gel column chromatography to obtain 0.10 g of methyl (R)-2-hydroxy-4-methyl-4-pentenoate. The yield was 72%.

reactant | dry ice | C(=O)=O | CO2
reactant | 2-methyl-l-propene | 10 mmoles, 0.56 g | CC(=C)C | C4H8
reactant | methyl glyoxylate | 1 mmole, 88 mg | C(C=O)(=O)OC | C3H4O3
reactant | sodium hydrogencarbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | methyl (R)-2-hydroxy-4-methyl-4-pentenoate | 0.10 g, yield was 72% | O[C@@H](C(=O)OC)CC(=C)C | C7H12O3
